US09216980B2
Step 4: 6-Fluoro-3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
A mixture of 3-bromo-6-fluoro-9H-dipyrido[2,3-b;4′,3′-d]pyrrole (100 mg, 0.38 mmol), 4-benzylpiperidine boronic acid (123 mg, 0.56 mmol) and 1,1′-[bis(diphenylphosphino) ferrocene]dichloropalladium(II) (31 mg, 0.038 mmol) in acetonitrile (1.5 mL) and 2N aqueous potassium fluoride solution (1.5 mL) was degassed with nitrogen for 20 minutes. The reaction mixture was then heated under microwave irradiation at 150° C. for 30 minutes, allowed to cool to ambient temperature and diluted with water (3 mL). The resultant precipitate was collected by filtration, washed with water (5 mL) and ethyl acetate (10 mL). The resultant solid residue was purified by flash chromatography (silica, 4 g column, ISCO, 0-20% methanol in DCM) to afford the title compound as an off white solid (90 mg, 67%). 1H NMR (DMSO-D6, 300 MHz): 12.27 (s, 1H), 9.00 (d, J=2.3 Hz, 1H), 8.93 (d, J=2.3 Hz, 1H), 8.49 (d, J=1.5 Hz, 1H), 7.98 (d, J=2.3 Hz, 1H), 7.74 (d, J=8.0 Hz, 2H), 7.43 (d, J=7.9 Hz, 2H), 3.48 (s, 2H), 2.42-2.29 (m, 4H), 1.54-1.47 (m, 4H), 1.44-1.34 (m, 2H). LCMS (Method A): RT=5.87 min, M+H+=361.

reactant | 3-bromo-6-fluoro-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 0.38 mmol, 100 mg | BrC1=CC2=C(NC3=C2C=C(N=C3)F)N=C1 | C10H5BrFN3
reactant | 4-benzylpiperidine boronic acid | 0.56 mmol, 123 mg | C(C1=CC=CC=C1)C1CCN(CC1)B(O)O | C12H18BNO2
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
solvent | potassium fluoride | 2N, 1.5 mL | [F-].[K+]
product | 6-Fluoro-3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | FC1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCCCC3 | C22H21FN4
